US07585885B2
(S)-2-sec-Butylamino-6-(2-methyl-2H-tetrazol-5-yl)-isonicotinic acid methyl ester
Treat a solution of (S)-2-sec-butylamino-6-(2H-tetrazol-5-yl)-isonicotinic acid methyl ester (350 mg, 1.26 mmol) in ethyl acetate (8 mL) with trimethyloxonium tetrafluoroborate at room temperature for 3 h. Dilute with ethyl acetate (50 mL) and wash with saturated sodium bicarbonate and saturated aqueous sodium chloride. Dry (sodium sulfate) and concentrate to give the title compound which is used directly in the next step without further purification.

reactant | (S)-2-sec-butylamino-6-(2H-tetrazol-5-yl)-isonicotinic acid methyl ester | 1.26 mmol, 350 mg | COC(C1=CC(=NC(=C1)C=1N=NNN1)N[C@@H](C)CC)=O | C12H16N6O2
reactant | trimethyloxonium tetrafluoroborate | F[B-](F)(F)F.C[O+](C)C
solvent | ethyl acetate | 8 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | (S)-2-sec-Butylamino-6-(2-methyl-2H-tetrazol-5-yl)-isonicotinic acid methyl ester | COC(C1=CC(=NC(=C1)C=1N=NN(N1)C)N[C@@H](C)CC)=O | C13H18N6O2
